US05175291
1,3-Dipropyl-8-(1-hydroxycyclopent-3-yl)xanthine
0.5 g (1.6 mmol) of 1,3-dipropyl-8-(1-oxo-3-cyclopentyl)xanthine, 10 ml of ethanol and 0.1 g (2.6 mmol) of sodium tetrahydridoboranate are stirred for 21/2 days at ambient temperature. The mixture is evaporated down in vacuo and mixed with water and methylene chloride then the aqueous phase is acidified and extracted. The combined organic extracts are dried and evaporated down in vacuo. The residue is separated into the isomers by chromatography on silica gel (CH2Cl2 /C3OH 95:5). From the 1st fraction, 0.4 g of the title compound are obtained in the form of white crystals (39% of theory), m.p. 174°-176° C. and from the 2nd fraction 0.4 g of the title compound are obtained in the form of white crystals (39% of theory), m.p. 191°-193° C.

reactant | 1,3-dipropyl-8-(1-oxo-3-cyclopentyl)xanthine | 1.6 mmol, 0.5 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1CC(CC1)=O)CCC | C16H22N4O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,3-Dipropyl-8-(1-hydroxycyclopent-3-yl)xanthine | 0.4 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1CC(CC1)O)CCC | C16H24N4O3
